US04588794
When the copolymerization reaction was performed under the conditions described above, a copolymer of ethylene, 1-butene and dicyclopentadiene was obtained as a uniform solution. A small amount of methanol was added to the polymer solution withdrawn from the bottom of the polymerization vessel to stop the polymerization reaction. The polymer was separated from the solvent by steam stripping, and dried under reduced pressure at 80° C. for one day.

reactant | ethylene | C=C | C2H4
reactant | 1-butene | C=CCC | C4H8
product | dicyclopentadiene | C1C=CC2C1C3CC2C=C3 | C10H12
